US08278319B2
Step-4: tert-Butyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate
To the solution of tert-butyl 4-formylpiperidine-1-carboxylate (5.87 mmol, 1 eq) in THF (250 ml) was added methyl vinyl ketone (7.63 mmol, 1.3 eq) at 0° C., followed by slow addition of 3 N KOH in ethanol (7.7 ml). The reaction was then stirred at 25° C. for 16 h. The reaction mixture was concentrated to one-third of the volume of solvent and then acidified with 0.5 N HCl at 0° C. The aqueous layer was extracted with ethyl acetate (2×100 ml), and the organics dried over Na2SO4 and concentrated. The crude material was used in the next step without further purification. Yield: 91%

reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 5.87 mmol, 1 eq | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | methyl vinyl ketone | 7.63 mmol, 1.3 eq | C(=C)C(=O)C | C4H6O
reactant | KOH | 3 N | [OH-].[K+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ethanol | 7.7 ml | C(C)O | C2H6O
product | tert-Butyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate | Yield: 91% | O=C1C=CC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H23NO3
